US05843973
3-Carbamoylcyclohexanecarboxylic acid
In 70 ml of aqueous conc. ammonia were dissolved 6.7 g of monomethyl 1,3-cyclohexanedicarboxylate, and the resulting mixture was allowed to stand at room temperature for 17 days. The pH of the mixture was adjusted to 1 with conc. hydrochloric acid under ice-cooling and the mixture was extracted with ethyl acetate. The extracts were washed with an aqueous sodium chloride solution and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure to obtain 2.64 g of the desired compound as a colorless crystalline solid. m.p.: 102°-128° C.; NMR spectrum (d6 -DMSO) δ ppm: 1.00-2.70(10H,m), 6.69(1H,s), 7.20(1H,s)

reactant | monomethyl 1,3-cyclohexanedicarboxylate | 6.7 g | C1(CC(CCC1)C(=O)[O-])C(=O)OC
reactant | hydrochloric acid | Cl | ClH
reactant | ammonia | 70 ml | N | H3N
product | 3-Carbamoylcyclohexanecarboxylic acid | 2.64 g | C(N)(=O)C1CC(CCC1)C(=O)O | C8H13NO3
